US08492540B2
2-{4-[4-(2-tert-Butyl-6-difluoromethyl-pyrimidin-4-yl)-piperazin-1-yl]butyl}-2H-[1,2,4]triazine-3,5-dione hydrochloride was prepared from 2-(4-chloro-butyl)-2H-[1,2,4]triazine-3,5-dione and 2-tert-butyl-4-piperazin-1-yl-6-difluoromethyl-pyrimidine by analogy to the process described in example 1 using N-methyl-pyrrolidine as solvent.

reactant | 2-(4-chloro-butyl)-2H-[1,2,4]triazine-3,5-dione | ClCCCCN1N=CC(NC1=O)=O | C7H10ClN3O2
reactant | 2-tert-butyl-4-piperazin-1-yl-6-difluoromethyl-pyrimidine | C(C)(C)(C)C1=NC(=CC(=N1)N1CCNCC1)C(F)F | C13H20F2N4
solvent | N-methyl-pyrrolidine | CN1CCCC1 | C5H11N
product | 2-{4-[4-(2-tert-Butyl-6-difluoromethyl-pyrimidin-4-yl)-piperazin-1-yl]butyl}-2H-[1,2,4]triazine-3,5-dione hydrochloride | Cl.C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCN1N=CC(NC1=O)=O)C(F)F | InChI=1S/C20H29F2N7O2.ClH/c1-20(2,3)18-24-14(17(21)22)12-15(25-18)28-10-8-27(9-11-28)6-4-5-7-29-19(31)26-16(30)13-23-29;/h12-13,17H,4-11H2,1-3H3,(H,26,30,31);1H
